Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
HA

 
Major Surgical or Invasive Procedure:
___- Right Craniotomy and evacuation of Subdural Hematoma. 


___ Repeat Right craniotomy for SubDural Hematoma 
evacuation (reaccumulation)

 
History of Present Illness:
Mr. ___ is a ___ year old on Coumadin for a mechanical mitral
valve who had a complaint of five days of headaches. In addition
to his coumadin and the aspirin, the patient endorses taking
ibuprofen for chronic back pain. After his headaches worsened, 
he
went to his PCP who recommended an MRI. The MRI showed a large
1.5+ subdural hematoma on the right. He was transported to
___ where his INR was found to be elevated. He was
given Vit K and started on K centra before he was medflighted to
___ for further management.

 
Past Medical History:
- mitral valve replacement ___
- MVP s/p MAZE procedure and left atrial appendage ligation ___
- prior splenic infarct when INF was low earlier this year

 
Social History:
___
Family History:
-mother:  in good health
-father:  in good health
 
Physical Exam:
 ___

On Discharge:
the patient was oriented to person/place/time
the patient had no pronator drift
the patients strength was full
sensation was intact
incision was clean/dry/intact
face was symetric

 
Pertinent Results:
CT HEAD W/O CONTRAST ___ 
Stable large right-sided subdural hematoma of intermediate 
density and 
heterogeneity suggesting possibility of coagulopathy among other 

possibilities.  Associated marked subfalcine shift as well as 
downward 
transtentorial herniation, not also not significantly changed. 

CT HEAD W/O CONTRAST ___ 
Status post evacuation with decrease in subdural collection. 
Stable leftward shift of midline structures and no new 
hemorrhage. 

CT HEAD W/O CONTRAST ___ 
Decrease in degree of pneumocephalus with similar size of right 
subdural 
collection following craniectomy. No new hemorrhage identified. 

CT HEAD W/O CONTRAST ___ 
Interval improvement in the extent of right subdural hematoma, 
with areas of increased density concerning for an acute 
component. Interval decrease in the extent of pneumocephalus and 
midline shift to the left. 

___ non contrast head CT
Stable appearance of the right subdural hematoma with continued 
leftward shift of midline structures by 8 mm.  No new 
hemorrhage. 

___ non contrast head CT
The subdural fluid collection appears thicker compared to 
yesterday. Midline shift to the left appears approximately 1 mm 
worse compared to 
yesterday. 

___ non contrast head CT
Stable appearance of right subdural hematoma and 10 mm leftward 
shift of 
midline structures after drain removal.  No new hemorrhage. 

___ non contrast head CT
Evolving postsurgical changes related to patient's prior right 
frontal 
craniotomy and subdural hemorrhage evacuation. Stable mixed 
prior blood products and pneumocephalus throughout right 
extra-axial space. Stable 10 mm leftward midline shift. No new 
hemorrhage is identified. 

___ Head CT without Contrast
Evolving postsurgical changes secondary to right frontal 
craniotomy and 
subdural hemorrhage evacuation. Persistent stable mixed blood 
products and pneumocephalus direct the right extra-axial space. 
Unchanged mass effect with leftward shift of normally midline 
structures. No new hemorrhage is identified.

___ Head CT without Contrast
1. Stable right subdural fluid collection with mixed blood 
products. 
2. Evolving right frontal craniotomy and subdural hemorrhage 
evacuation 
postsurgical changes 
3. No new hemorrhage. 
4. Please note MRI is more sensitive for the evaluation of acute 
infarcts. 

___ MRI Stroke Protocol
1. No definite acute infarct. 
2. Postsurgical changes related to patient's right frontal 
craniotomy and 
subdural hematoma evacuation with continued blood products. 
3. Right temporal lobe encephalomalacia consistent with 
patient's remote 
history of right temporal lobe infarct. 
4. Stable 7 mm right to left midline shift. 
5. Nonspecific small right mastoid fluid, not clearly seen on 
prior CT 
examination. 

CT HEAD W/O CONTRAST ___ 
Slight interval decrease in right subdural hematoma

CT HEAD W/O CONTRAST ___
Stable appearance of right subdural hematoma and 6 mm leftward 
midline shift compared to the prior study 

Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
11:28 AM 

IMPRESSION:  
  
Decrease in size of right-sided mixed density subdural hematoma 
which contains high-density material.  8 mm subdural hematoma 
still remains. No midline shift or hydrocephalus. 

Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
11:28 AM 

IMPRESSION:  
  
Decrease in size of right-sided mixed density subdural hematoma 
which contains high-density material.  8 mm subdural hematoma 
still remains. No midline shift or hydrocephalus 

Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
12:37 ___ 

IMPRESSION:  
Interval decrease in size of right-sided subdural hematoma 
without evidence of new hemorrhage 

 
Brief Hospital Course:
This is a ___ year old M on coumadin for mitral valve replacement 
with headache for 5 days. He also admitted to taking aspirin and 
ibuprofen. Head CT revealed a Right SDH with significant midline 
shift. INR was elevated, he received vitamin K and KCENTRA at 
the OSH and was medflighted to ___. He was taken to the OR 
emergently to the OR for evacuation of SDH. He was transferred 
to the ICU for monitoring. Post operative head CT showed 
reaccumulation of SDH, he received platlets and was taken back 
to the OR for repeat R craniotomy for evacuation of SDH. A 
subdural drain was left in place at this time. He was extubated 
in the SICU and repeat head CT showed good evacuation of 
hematoma. On post op exam, he was neurologically intact.

On ___, The patient remained stable. A repeat head CT was 
obtained and showed a stable MLS and SDH. The SD drain remained 
in place. He was started on ___. 

On ___, the patient become somulent and a head CT was obtained 
and showed increased thickness of SDH and increased shift. The 
drain was kept in place. 

On ___, the patient remained stable on exam and orders were 
written for transfer to floor. His SD drain was removed without 
any difficulty. A CT was obtained and was stable compared to 
yesterday's head CT. 

On ___, the patient remained stable. A ___ consult was 
obtained and recommended rehab. Case Management initiated 
discharge discussion and planning with Mr. ___ to begin 
screening for rehabilitation.

Prior to intiating Mr. ___ home anticoagulation regimen for 
his mitral valve, a repeat non-contact head CT was performed on 
___ which showed acute blood in the resection bed and a 
mid-line shift of 1.2cm.  The decision to resume the patient's 
anticoagulation was held until coagulation labs were obtained 
and time to further monitor the patient's neurologic status.

On ___, the patient was stable neurologically.  He continued 
his aspirin.  Given the acute blood seen on his CT, it was 
decided that coumadin would be held and the patient would stay 
for observation over the weekend. A repeat head CT was planned 
for ___ to assess the stability of the SDH.  His INR was 1.1.

On ___, the patient remained neurologically stable but 
complained of a persistent headache. A NCHCT was obtained and 
found to be stable. 

On ___, the patient remained neurologically stable. Cardiology 
was consulted regarding timing of starting a Heparin gtt. Per 
Cardiology, recommend starting a Heparin gtt on ___, 
___. The patient complained of left-handed clumsiness in 
the late afternoon. A NCHCT was ordered and found to be stable.

On ___, the patient continued with complaints of left hand 
clumsiness which persisted. He underwent a MRI with DWI protocol 
which was ordered to rule out a stroke. Preliminary read was 
negative. 

On ___, the patient remained neurologically stable. He continued 
with complaints of left hand clumsiness. An OT consult was 
placed. His incision was clean, dry and intact without edema, 
erythema or discharge. The MRI performed ___ was finalized and 
was negative for stroke. Pt remained stable on ___.

On ___ A NCHCT was repeated which revealed slight interval 
decrease in right subdural hematoma. He was started on a heparin 
gtt for bridge to coumadin with a goal PTT of 50-70.

On ___, patient had a stable repeat head CT with a theraputic 
PTT. He was started on 6mg of coumadin. Dilantin was 
discontinued and keppra was continued. 

On ___, PTT was 76.2 and exam remained stable. 

On ___, his PTT remained theraputic and coumadin was increased 
to 7.5mg. He was intact on exam. ___ recommended home with ___.  

On ___, the patient remained neurologically and hemodynamically 
stable. His PTT was 76 and his heparin drip was decreased to 
1400 units/hr. His INR was 1.3 and he received another dose of 
6mg of coumadin po. 
 
On ___, the patient remained stable. His PTT was WNL x3, with 
heparin drip at 1400nits/hr. His INR was 1.3 this morning and 
his coumadin dose was increased to 7.5.
 
___ INR was 1.4. PTT remained a goal. A routine CT head was 
performed and revealed decreased size of R SDH, and no midline 
shift, improved from previous scan.
 
On ___ INR was 1.4. He continued on 7.5mg of coumadin daily. 

On ___, he remained stable, INR 1.6. On ___, INR 1.9, his 
heparin gtt was increased to 1500u/hr for a drop in PTT. 

On ___, INR 2.2 and PTT slightly elevated. Heparin gtt was 
decreased to 1400u/hr. 

On ___, The patient was neurologically stable.  On exam 
the patient was ambulating independently and was full strength.  


On ___ patient's morning PTT was 73.  The heparin gtt was 
decreased to 1250units/hr.  The INR was 2.3.  The patient's 
current INR was discussed with inpatient cardiology and it was 
determined that the patient must stay until INR 2.5.  This was 
discussed with the patient.

On ___, The patients INR was 2.5.  The heparin intravenous 
infusion was discontinued.  The patient was sent for a ___ 
which was consistent with Interval decrease in size of 
right-sided subdural hematoma without evidence of new 
hemorrhage.  The patient was neurologically intact and was 
discharged home with a plan to follow up with his cardiologist 
this week.  He will have his INR checked at his cardiologist 
office tomorrow. 

 
Medications on Admission:
Coumadin 
Lisinipril
ASA 81

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN fever or pain 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*1
4. LeVETiracetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*1
5. Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 1 tablets by mouth at bedtime Disp 
#*60 Capsule Refills:*1
6. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN pain 
do not drive while taking this medication 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth q6 Disp 
#*45 Tablet Refills:*0
7. Bisacodyl 10 mg PO/PR DAILY constipation 
RX *bisacodyl 5 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
8. Warfarin 7.5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subdural Hematoma

 
Discharge Condition:
the patient was oriented to person/place/time
the patient had no pronator drift
the patients strength was full
sensation was intact
incision was clean/dry/intact
face was symetric

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage with Surgery

Surgery

·     You underwent a surgery called a craniotomy to have blood 
removed from your brain. 

·     It is best to keep your incision open to air but it is ok 
to cover it when outside. 

·     Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

·     You have been discharged on blood thinning medication 
(Aspirin and Coumadin) which has been cleared by the 
neurosurgeon. Your goal INR is 2.5-3.5 for the maintenance of 
your mechanical valve.

PLEASE HAVE YOUR INR CHECK tomorrow ___ and reviewed by your 
Cardiologist

·     You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

What You ___ Experience:

·     You may have difficulty paying attention, concentrating, 
and remembering new information.

·     Emotional and/or behavioral difficulties are common. 

·     Feeling more tired, restlessness, irritability, and mood 
swings are also common.

·     You may also experience some post-operative swelling 
around your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 

·     You may experience soreness with chewing. This is normal 
from the surgery and will improve with time. Softer foods may be 
easier during this time. 

·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

Headaches:

·     Headache is one of the most common symptoms after a brain 
bleed. 

·     Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

·     Mild pain medications may be helpful with these headaches 
but avoid taking pain medications on a daily basis unless 
prescribed by your doctor. 

·     There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Nausea and/or vomiting

·     Extreme sleepiness and not being able to stay awake

·     Severe headaches not relieved by pain relievers

·     Seizures

·     Any new problems with your vision or ability to speak

·     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

·     Sudden numbness or weakness in the face, arm, or leg

·     Sudden confusion or trouble speaking or understanding

·     Sudden trouble walking, dizziness, or loss of balance or 
coordination

·     Sudden severe headaches with no known reason

 

 

 
Followup Instructions:
___